US07345180B2
1-Acetyl-1H-indole-5-carboxylic acid
1-Acetyl-2,3-dihydro-1H-indole-5-carboxylic acid (100 mg) was suspended in 1,4-dioxane (3 ml), and 2,3-dichloro-5,6-dicyano-p-benzoquinone (445 mg) was added thereto and stirred for 16 hours at 110° C. Solids were removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by preparative thin-layer chromatography (developing solvent; dichloromethane:methanol 20:1) to give the title compound (98 mg, Y.:99%).

reactant | 1-Acetyl-2,3-dihydro-1H-indole-5-carboxylic acid | 100 mg | C(C)(=O)N1CCC2=CC(=CC=C12)C(=O)O | C11H11NO3
reactant | 2,3-dichloro-5,6-dicyano-p-benzoquinone | 445 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 1-Acetyl-1H-indole-5-carboxylic acid | 98 mg, 99% | C(C)(=O)N1C=CC2=CC(=CC=C12)C(=O)O | C11H9NO3
